Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2](\[O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-5.13698046671
[H:9].[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.05205138594
[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-5.93199777564
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],-3.5911363978199993
[C:3]=[C:4]([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-9.24121381764
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9].[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-4.01707784182
[C:11]([H:12])([H:13])[H:14].[H:1][C:2](/[C:3]=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])=[O:10]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.993370665
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[H:1][C:5]#[C:4],7.440993077410001
[C:3]([H:4])([H:5])=[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-2.69925781364
[H:10].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.21957128303
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-0.2150824087199999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],4.13280605094
[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.80506046138
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],1.90815044775
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15],5.14557405086
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9],4.66509741077
[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1\[C:6][C:7]([H:8])[C:9]1([H:10])[H:11],0.22586640393000004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:13]([H:14])[H:15],2.82598920313
[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.764955112880002
[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])[H:5],0.429246850002
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10],3.60353636949
[H:1][C:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.27475530718
[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.17668684724
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.57921918105
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4][H:5],6.871101297999999
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:10][H:11].[H:4],1.90922741193
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:10]([H:11])[H:12],2.3910127773500003
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10],3.75781698653
[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-6.666301055700001
